* CIRCUIT: Chap24_LTspice/Fig24_36
* YAML: /home/idies/workspace/Storage/xyu1/persistent/ALIGN-public/simple_circuit_5/OpenManus/autosizer_plus/circuits_yaml_generated/Chap24_LTspice__Fig24_36.yaml
* Variables: ['W_nfet_g0', 'W_nfet_g1', 'R1', 'CL', 'C1']
* Trial values (midpoint): [1.47, 1.47, 100000000.0, 1e-12, 0.0001]
* Metrics: ['dc_gain_db', 'ugbw', 'power_dc', 'fom']
* Class: mosfet_analog_ac

* Circuit: Chap24_LTspice/Fig24_36
.lib ${SKY130_PDK} tt

VDD VDD 0 1.8
xm2 N002 vp N007 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm1 N001 vm N007 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm3 N003 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
X_U1 Vbias1 Vhigh Vbias2 Vpcas Vncas Vbias3 Vlow Vbias4 VDD 0 Fig_20_47
xm6b N010 Vbias4 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
vp vp 0 500m AC 1
xm51 N011 N008 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm4 N006 N002 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm5 N012 N008 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
R1 vm Vout 100000000.0
CL Vout 0 1e-12
xm31 N004 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm41 N005 N002 VDD VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
C1 vm 0 0.0001
xm6 N007 Vbias3 N010 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm7 N009 Vbias4 0 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm8 N007 Vbias3 N009 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm9 N008 Vbias3 N011 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm10 Vout Vbias3 N012 0 sky130_fd_pr__nfet_01v8 w=1.47 l=0.15
xm11 N008 Vbias2 N003 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm12 Vout Vbias2 N006 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm13 N001 Vbias2 N004 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
xm14 N002 Vbias2 N005 VDD sky130_fd_pr__pfet_01v8 w=1.47 l=0.15
.subckt Fig_20_47 Vbias1 Vhigh Vbias2 Vpcas Vncas Vbias3 Vlow Vbias4 VDD GND
  xmsu2 N002 N002 VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.15
  xmsu1 N002 N003 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xmsu3 Vbiasp N002 N003 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm3 N003 Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xm4 N004 Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xm1 N003 N003 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm2 N004 N004 N005 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  R1 N005 GND 5.5k
  xma4 Vbiasp N001 VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xma3 N001 N001 VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xm5 N001 N004 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm6 Vbiasp N003 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm7 VDD Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=5
  xma1 Vbias3 Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xma2 Vbias4 Vbiasp VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xmsu4 Vbias3 Vbias3 0 0 sky130_fd_pr__nfet_01v8 w=0.5 l=0.5
  xm8 Vbias4 Vbias3 Vlow 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm9 Vlow Vbias4 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm10 Vpcas Vbias3 N009 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm11 N009 Vbias4 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm12 Vbias2 Vbias3 N010 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm13 N010 Vbias4 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm14 Vbias1 Vbias3 N011 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm15 N011 Vbias4 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xma5 Vpcas Vpcas N006 VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xma6 N006 Vbias2 N007 VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xma7 N007 N006 VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xma8 Vbias2 Vbias2 VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=0.5
  xma9 Vbias1 Vbias2 Vhigh VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xma10 Vhigh Vbias1 VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xma11 Vncas Vbias2 N008 VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xma12 N008 Vbias1 VDD VDD sky130_fd_pr__pfet_01v8 w=5 l=0.15
  xm16 Vncas Vncas N012 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm17 N012 Vbias3 P001 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
  xm18 P001 N012 0 0 sky130_fd_pr__nfet_01v8 w=1 l=0.15
.ends Fig_20_47


.control
op
let vdd_current = abs(i(VDD))
let power_dc = vdd_current * v(VDD)
print power_dc

ac dec 100 1 10g
let vout_mag = vm(vout)
let gain_db = db(vout_mag)
let dc_gain_db = gain_db[0]
print dc_gain_db

if dc_gain_db > 0
    meas ac ugbw WHEN gain_db=0 CROSS=1
end

let phase = vp(vout)
let dc_phase = phase[0]

quit
.endc

.end
